US09193744B2
1-[Bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxide hexafluorophosphate (0.201 g, 0.530 mmol) was added to a solution of rac-(3R,4aR,12bS)-9-(4-fluorophenyl)-3-((triethylsilyl)oxy)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-12b-carb oxylic acid (43, R1=4-Fluorophenyl, R3=Trifluoromethyl) (0.235 g, 0.407 mmol), cyclopropanamine (0.093 g, 1.6 mmol), N-ethyl-N,N-diisopropylethylamine (0.285 mL, 1.63 mmol), DCM (5 mL), and DMF (1 mL). After about 24 h, 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxide hexafluorophosphate (0.020 g, 0.053 mmol) was added. After about 24 h, the reaction mixture was partitioned between DCM (50 mL) and sat. aq. NaHCO3 (10 mL). The organic layer was washed with water (10 mL), dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified on silica gel (40 g) using a gradient of 0-17% EtOAc in heptane. The product fractions were combined and concentrated under reduced pressure to give rac-(3R,4aR,12bS)—N-cyclopropyl-9-(4-fluorophenyl)-3-((triethylsilyl)oxy)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-12b-carboxamide (44, R1=4-Fluorophenyl, R2′=Cyclopropyl, R3=Trifluoromethyl) (0.230 g. 92% yield); LC/MS, method 4, Rt=2.65 min.; MS m/z: 616 (M+H)+. 1H NMR (400 MHz, CDCl3) δ 8.16 (d, J=0.9 Hz 1H), 7.86 (s, 1H), 7.73-7.65 (m, 2H), 7.45 (s, 1H), 7.29-7.22 (m, 2H), 4.99 (s, 1H), 2.93-2.72 (m, 2H), 2.72-2.46 (m, 4H), 2.26-2.08 (m, 2H), 2.08-1.87 (m, 3H), 1.75-1.63 (m, 2H), 1.42-1.29 (m, 1H), 1.05-0.96 (m, 9H), 0.78-0.60 (m, 8H), 0.32-0.15 (m, 2H).

reactant | 1-[Bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxide hexafluorophosphate | 0.530 mmol, 0.201 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | rac-(3R,4aR,12bS)-9-(4-fluorophenyl)-3-((triethylsilyl)oxy)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-12b-carb oxylic acid | FC1=CC=C(C=C1)N1N=CC=2C=C3C(=CC12)CCCC1C3(CCC(C1)(C(F)(F)F)O[Si](CC)(CC)CC)C(=O)O | C30H36F4N2O3Si
reactant | cyclopropanamine | 1.6 mmol, 0.093 g | C1(CC1)N | C3H7N
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxide hexafluorophosphate | 0.053 mmol, 0.020 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | rac-(3R,4aR,12bS)—N-cyclopropyl-9-(4-fluorophenyl)-3-((triethylsilyl)oxy)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-12b-carboxamide | 92% yield | C1(CC1)NC(=O)C12C(CCCC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)CC(CC2)(C(F)(F)F)O[Si](CC)(CC)CC | C33H41F4N3O2Si
